US09193707B2
2. Synthesis of 3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)-N-phenylpropanamide
Into a 1000-mL 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)propanoic acid (40 g, 182.49 mmol, 1.00 equiv) in water (250 mL). This was followed by the addition of aniline (17 g, 182.55 mmol, 1.00 equiv). To this was added sodium carbonate (9.6 g, 90.57 mmol, 0.50 equiv). The resulting solution was stirred for 3 h at 25° C. The pH value of the solution was adjusted to 5-6 with hydrochloric acid (1 mol/L). The solids were collected by filtration. The filter cake was washed with 1×200 mL of water. This resulted in 40 g (74%) of 3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)-N-phenylpropanamide as a white solid. MS (ESI) m/z 295 ([M+H]+).

reactant | 3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)propanoic acid | 182.49 mmol, 40 g, 1.00 equiv | O=C1N(C(C2=CC=CC=C12)=O)CCC(=O)O | C11H9NO4
reactant | aniline | 182.55 mmol, 17 g, 1.00 equiv | NC1=CC=CC=C1 | C6H7N
reactant | sodium carbonate | 90.57 mmol, 9.6 g, 0.50 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | water | 250 mL | O | H2O
product | 3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)-N-phenylpropanamide | O=C1N(C(C2=CC=CC=C12)=O)CCC(=O)NC1=CC=CC=C1 | C17H14N2O3
